US05587486
3-methylthiophene-2-aldehyde phenylimine (100 mg, 0.497 mmol) and triethylamine (0.21 ml, 1.49 mmol) were mixed in xylene, to which acetyl chloride (0.14 ml, 1.99 mmol) was added under ice cooling. Methyl acrylate (0.22 ml, 2.48 mmol) was added to the resultant mixture and stirred under reflux for 7 hours. After allowing the reaction mixture to cool, water was added and the mixture was extracted with ethyl acetate. After washing the liquid extract with an aqueous solution of sodium chloride and drying over sodium sulfate, the solvent was distilled off to obtain 300 mg of crude products. Purification by silica gel column chromatography gave 114 mg (yield: 83%) of N-acetyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester. 1H-NMR spectra (chemical shift, ppm: in CDCl3): 1.00-1.50 (1H, m), 1.73, 1.86 (joined 3H, s×2), 1.85-2.20 (1H, m), 230-2.85 (2.5H), 2.95-3.20 (0.5H, m), 3.74, 3.82 (joined 3H, s×2), 6.63-6.85 (2H), 7.15-7.70 (5H).

reactant | 3-methylthiophene-2-aldehyde phenylimine | 0.497 mmol, 100 mg | C1(=CC=CC=C1)N=CC=1SC=CC1C | C12H11NS
reactant | triethylamine | 1.49 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.99 mmol, 0.14 ml | C(C)(=O)Cl | C2H3ClO
reactant | Methyl acrylate | 2.48 mmol, 0.22 ml | C(C=C)(=O)OC | C4H6O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-acetyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester | 114 mg, yield: 83% | COC(=O)C1CCC2=C(SC=C2)C1N(C1=CC=CC=C1)C(C)=O | C18H19NO3S
